US07160888B2
Synthesis of 6-{5-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-pentyl}-4H-pyrido[3,2-b][1,4]oxazin-3-one
6-{5-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-pent-1-enyl}-4H-pyrido[3,2-b][1,4]oxazin-3-one (0.774 g, 1.73 mmol) was hydrogenated using Ra—Ni (0.25 g) in THF for 16 hours. The reaction was filtered and concentrated to give an oil. Ethyl acetate was added and the product crashed out. The precipitate was filtered and dried to give the title compound as a white solid (0.645 g, 83%). MS: APCI: M+1: 449.1 (Exact Mass: 448.14).

reactant | 6-{5-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-pent-1-enyl}-4H-pyrido[3,2-b][1,4]oxazin-3-one | 1.73 mmol, 0.774 g | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCC=CC=1C=CC=2OCC(NC2N1)=O | C22H24Cl2N4O2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
catalyst | Ra—Ni | 0.25 g | [Ni] | Ni
product | 6-{5-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-pentyl}-4H-pyrido[3,2-b][1,4]oxazin-3-one | 0.645 g, 83% | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCCCC=1C=CC=2OCC(NC2N1)=O | C22H26Cl2N4O2
